US09315458B2
F) methyl 5-(2-fluoro-4-(1H-pyrazol-1-yl)benzyl)-3,4-dimethyl-2-vinylbenzoate
To a solution of methyl 5-(2-fluoro-4-(1H-pyrazol-1-yl)benzyl)-3,4-dimethyl-2-(((trifluoromethyl)sulfonyl)oxy)benzoate (0.50 g) in DMF (10.0 mL) were added tributylvinyltin (0.50 g), trans-dichlorobis(triphenylphosphine)palladium(II) (0.04 g) and lithium chloride (0.32 g), and the mixture was stirred at 90° C. for 1.5 hr under argon atmosphere. To the reaction mixture was added aqueous potassium fluoride solution, and the precipitated insoluble substance was removed by filtration through Celite. The filtrate was diluted with ethyl acetate, and the mixture was washed with water and saturated brine. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (0.40 g).

reactant | methyl 5-(2-fluoro-4-(1H-pyrazol-1-yl)benzyl)-3,4-dimethyl-2-(((trifluoromethyl)sulfonyl)oxy)benzoate | 0.50 g | FC1=C(CC=2C(=C(C(=C(C(=O)OC)C2)OS(=O)(=O)C(F)(F)F)C)C)C=CC(=C1)N1N=CC=C1 | C21H18F4N2O5S
reactant | tributylvinyltin | 0.50 g | C(CCC)C(=C(CCCC)CCCC)[Sn]
reactant | lithium chloride | 0.32 g | [Cl-].[Li+]
reactant | potassium fluoride | [F-].[K+]
solvent | DMF | 10.0 mL | CN(C)C=O | C3H7NO
catalyst | trans-dichlorobis(triphenylphosphine)palladium(II) | 0.04 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | methyl 5-(2-fluoro-4-(1H-pyrazol-1-yl)benzyl)-3,4-dimethyl-2-vinylbenzoate | 0.40 g | FC1=C(CC=2C(=C(C(=C(C(=O)OC)C2)C=C)C)C)C=CC(=C1)N1N=CC=C1 | C22H21FN2O2
